US07847101B2
To a solution of the above prepared 3-(1-acetylpiperidin-4-yl)-2-benzothiazol-2-yl-3-hydroxyacrylonitrile (415 mg, 1.27 mmol) in anhydrous dichloromethane (20 mL) at room temperature under argon were added triethylamine (193 mg, 1.9 mmol) and tosyl chloride (303 mg, 1.59 mmol) in small portions. The resulting mixture was stirred at room temperature for 6 hrs. The reaction mixture was diluted with dichloromethane. The organic phase was washed with 1% HCl, 0.5% NaOH, water, brine, and dried over anhydrous sodium sulfate, filtered, and evaporated. The resulting crude product was purified by flash column chromatography eluting with CH2Cl2:MeOH=20:1 to yield 140 mg (23%) of toluene-4-sulfonic acid 1-(1-acetylpiperidin-4-yl)-2-benzothiazol-2-yl-2-cyanovinyl ester. MS (m/z, ES+): 482.1 (M+1, 100%).

reactant | 3-(1-acetylpiperidin-4-yl)-2-benzothiazol-2-yl-3-hydroxyacrylonitrile | 1.27 mmol, 415 mg | C(C)(=O)N1CCC(CC1)C(=C(C#N)C=1SC2=C(N1)C=CC=C2)O | C17H17N3O2S
reactant | triethylamine | 1.9 mmol, 193 mg | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 1.59 mmol, 303 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 1-(1-acetylpiperidin-4-yl)-2-benzothiazol-2-yl-2-cyanovinyl ester | 140 mg, 23% | C(C)(=O)N1CCC(CC1)C(=C(C#N)C=1SC2=C(N1)C=CC=C2)OS(=O)(=O)C2=CC=C(C=C2)C | C24H23N3O4S2
